US07329658B2
Preparation of 1-[7-(2-Chlorophenyl)-8-(4-chlorophenyl)-pyrazolo[1,5-a][1,3,5]triazin-4-yl]-4-ethylaminopiperidine-4-carboxylic Acid Amide (5A-1)
To a mixture of 4-ethylaminopiperidine-4-carboxylic acid amide (I-1A-1h; 25 mg, 0.15 mmol) in dimethylformamide (1.5 ml) was added diisopropylethylamine (0.032 ml, 0.18 mmol) and then di-[7-(2-chlorophenyl)-8-(4-chlorophenyl)-pyrazolo[1,5-a][1,3,5]triazin-4-yl]ether (I-5A-1a; 85 mg, 0.12 mmol), portionwise. After stirring overnight, the reaction was extracted from water with ethyl acetate. The combined extracts were washed with brine, dried (MgSO4), concentrated, in vacuo, and then purified on a Chromatotron using 8-7/2/0.02 methylene chloride/ethyl acetate/acetic acid as eluant. The resultant solid was extracted from saturated aqueous NaHCO3 with ethyl actate, the combined extracts were then washed with brine, dried (MgSO4) and concentrated, in vacuo, to afford 5A-1 (55 mg, 88%) as a solid: +APcI MS (M+1) 510.3; 1H NMR (400 MHz, CD3OD) δ 8.14-8.12 (m, 1H), 7.50-7.37 (m, 6H), 7.26-7.20 (m, 2H), 4.30-4.58 (v br m, 2H), 4.45-4.32 (v br m, 2H), 2.59-2.51 (m, 2H), 2.23-2.14 (m, 2H), 1.88-1.79 (m, 2H), 1.15-1.09 (m, 3H).

reactant | 4-ethylaminopiperidine-4-carboxylic acid amide | 0.15 mmol, 25 mg | C(C)NC1(CCNCC1)C(=O)N | C8H17N3O
reactant | diisopropylethylamine | 0.18 mmol, 0.032 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | di-[7-(2-chlorophenyl)-8-(4-chlorophenyl)-pyrazolo[1,5-a][1,3,5]triazin-4-yl]ether | 0.12 mmol, 85 mg | ClC1=C(C=CC=C1)C1=NN2C(N=CN=C2OC2=NC=NC=3N2N=C(C3C3=CC=C(C=C3)Cl)C3=C(C=CC=C3)Cl)=C1C1=CC=C(C=C1)Cl | C34H18Cl4N8O
solvent | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | 1-[7-(2-Chlorophenyl)-8-(4-chlorophenyl)-pyrazolo[1,5-a][1,3,5]triazin-4-yl]-4-ethylaminopiperidine-4-carboxylic Acid Amide | ClC1=C(C=CC=C1)C1=NN2C(N=CN=C2N2CCC(CC2)(C(=O)N)NCC)=C1C1=CC=C(C=C1)Cl | C25H25Cl2N7O
